US07884210B2
[2-(3-Benzo[1,3]dioxol-5-yl-3-cyclohexyl methyl-ureido)-thiazol-5-ylsulfanyl]-acetic acid
The title compound was prepared via [2-(3-benzo[1,3]dioxol-5-yl-3-cyclohexylmethyl-ureido)-thiazol-5-ylsulfanyl]-acetic acid ethyl ester in a similar manner as described for the synthesis of {2-[3-cyclopentylmethyl-3-(4-methanesulfonyl-phenyl)-ureido]-thiazol-4-yl}-acetic acid, using benzo[1,3]dioxol-5-yl-cyclohexylmethyl-amine and (2-amino-thiazol-5-ylsulfanyl)acetic acid ethyl ester

reactant | [2-(3-benzo[1,3]dioxol-5-yl-3-cyclohexylmethyl-ureido)-thiazol-5-ylsulfanyl]-acetic acid ethyl ester | C(C)OC(CSC1=CN=C(S1)NC(=O)N(CC1CCCCC1)C1=CC2=C(OCO2)C=C1)=O | C22H27N3O5S2
reactant | {2-[3-cyclopentylmethyl-3-(4-methanesulfonyl-phenyl)-ureido]-thiazol-4-yl}-acetic acid | C1(CCCC1)CN(C(NC=1SC=C(N1)CC(=O)O)=O)C1=CC=C(C=C1)S(=O)(=O)C | C19H23N3O5S2
reactant | benzo[1,3]dioxol-5-yl-cyclohexylmethyl-amine | O1COC2=C1C=CC(=C2)NCC2CCCCC2 | C14H19NO2
reactant | (2-amino-thiazol-5-ylsulfanyl)acetic acid ethyl ester | C(C)OC(CSC1=CN=C(S1)N)=O | C7H10N2O2S2
product | [2-(3-Benzo[1,3]dioxol-5-yl-3-cyclohexyl methyl-ureido)-thiazol-5-ylsulfanyl]-acetic acid | O1COC2=C1C=CC(=C2)N(C(N(C=2SC(=CN2)SCC(=O)O)C)=O)C2CCCCC2 | C20H23N3O5S2
